US08754103B2
N-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanesulfonamide (10 mg) was dissolved in DMF (1 mL) and heated with potassium carbonate (39 mg) and methyl iodide (40 mg) for 2 h at 85° C. The reaction mixture was filtered, concentrated, and purified by chromatography using 2% MeOH in methylene chloride as eluent. N-methyl-N-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanesulfonamide was obtained as white solid.

reactant | N-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanesulfonamide | 10 mg | FC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)NS(=O)(=O)C)(F)F | C14H11F3N4O2S
reactant | potassium carbonate | 39 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 40 mg | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)methanesulfonamide | CN(S(=O)(=O)C)C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C15H13F3N4O2S
